Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / terazosin
 
Attending: ___.
 
Chief Complaint:
nausea, chest discomfort
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr ___ is an ___ year old man with history of 
hypertension, transferred from ___ after presenting 
with ventricular tachycardia.  
 He reports feeling unwell for several weeks, and was diagnosed 
with a "throat infection" 5 days prior to presentation. He was 
prescribed clindamycin (due to penicillin allergy) and codeine 
cough syrup, which he has been taking with some improvement in 
his symptoms.  
 On the night prior to presentation he was feeling poorly again, 
and developed chest discomfort (mild pain and sensation of 
pounding), and some difficulty breathing. He estimated his HR 
was around 100 at this time. Was unable to sleep well due to his 
symptoms, which continued this morning. Today he also had 
multiple episode of emesis, denied abdominal pain or diarrhea, 
reports constipation. He had ongoing epigastric and retrosternal 
discomfort that he associates with vomiting and coughing. He 
decided to present to the ___ at ___. There he was 
noted to have a ___ beat run of polymorphic ventricular 
tachycardia, while he was having chest discomfort and 
lightheadedness. He was given a bolus of amiodarone, and 
magnesium 1g IV. TSH, BNP, and troponin were within normal 
limts, magnesium was 2.4, and other electrolytes were normal. 
Chest x-ray reportedly unremarkable. QTc on EKG was 456.  
 At baseline, Mr ___ is generally in good health, and remains 
active with daily running. Denies prior cardiac disease. An 
episode of syncope approximately ___ years ago was worked up 
at ___ (telemetry, echo) and was unremarkable.  
 In the ___, initial vitals were: T 98.5, BP 147/70, HR 64, RR 
16, SPO2 96% on RA.  
 - Labs notable for:  
 - WBC 5.7, Hgb 10.2, Plt 138  
 - Na 136, K 4.6, Creat 1.2, BUN 35, glucose 153, calcium 8.7, 
magnesium 2.3  
 -troponin <0.01  
 - UA with 30 protein, otherwise negative  
 EKG demonstrated sinus rhythm, rate 69. No ST changes. Twave 
flattening in I and V5.  
 - Patient was given: no medications  
 Cardiology recs on the ___ dash: no additional amiodarone, 
replete K to 4 and Mg to 2. Continuous class 1 telemetry, admit 
to ___.  
 Upon arrival to the floor, patient reports he is feeling much 
better  
 
Past Medical History:
Hypertension  
BPH
 
Social History:
___
Family History:
 patient denies significant family medical history  
 
Physical Exam:
Vital Signs: T 98.4, BP 159/61, HR 65, RR 16, SPO2 95% on RA  
 weight 60.3kg standing  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear without 
erythema, EOMI, PERRL.  
 Neck: Supple. JVP not elevated. no cervical LAD  
 CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  
 LABS: reviewed above.  
 
 
Pertinent Results:
admissions labs: 
___ 06:03PM   GLUCOSE-153* UREA N-35* CREAT-1.2 SODIUM-136 
POTASSIUM-4.6 CHLORIDE-103 TOTAL CO2-22 ANION GAP-16
___ 06:03PM   estGFR-Using this
___ 06:03PM   cTropnT-<0.01
___ 06:03PM   CALCIUM-8.7 PHOSPHATE-3.5 MAGNESIUM-2.3
___ 06:03PM   WBC-5.7 RBC-2.99* HGB-10.2* HCT-30.3* 
MCV-101* MCH-34.1* MCHC-33.7 RDW-13.0 RDWSD-48.2*
___ 06:03PM   NEUTS-68.7 ___ MONOS-8.3 EOS-0.5* 
BASOS-0.2 IM ___ AbsNeut-3.90 AbsLymp-1.24 AbsMono-0.47 
AbsEos-0.03* AbsBaso-0.01
___ 06:03PM   PLT COUNT-138*
___ 04:10PM URINE  HOURS-RANDOM
___ 04:10PM URINE  UHOLD-HOLD
___ 04:10PM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 04:10PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 04:10PM URINE  RBC-<1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 04:10PM URINE  HYALINE-1*
___ 04:10PM URINE  MUCOUS-RARE

Discharge:
___ 05:52AM BLOOD WBC-4.9 RBC-2.90* Hgb-9.9* Hct-29.7* 
MCV-102* MCH-34.1* MCHC-33.3 RDW-13.0 RDWSD-48.9* Plt ___
___ 06:03PM BLOOD WBC-5.7 RBC-2.99* Hgb-10.2* Hct-30.3* 
MCV-101* MCH-34.1* MCHC-33.7 RDW-13.0 RDWSD-48.2* Plt ___
___ 06:03PM BLOOD Neuts-68.7 ___ Monos-8.3 Eos-0.5* 
Baso-0.2 Im ___ AbsNeut-3.90 AbsLymp-1.24 AbsMono-0.47 
AbsEos-0.03* AbsBaso-0.01
___ 05:52AM BLOOD Plt ___
___ 05:52AM BLOOD ___ PTT-31.1 ___
___ 05:52AM BLOOD Glucose-94 UreaN-30* Creat-1.2 Na-139 
K-3.9 Cl-105 HCO3-23 AnGap-15
___ 05:52AM BLOOD Calcium-8.7 Phos-3.7 Mg-2.2 Iron-___ with PMH of hypertension, transferred from ___ 
___ after presenting with nausea, vomiting and question of 
ventricular tachycardia, which was later determined to be 
artifact. 

#Possible Arrhythmia: 
Patient was noted to have 30 beats of possible polymorphic VT at 
OSH with symptoms of chest pressure and lightheadedness which 
prompted transfer to ___. His rhythm strip from OSH was 
evaluated by Dr. ___ in electrophysiology.  Given a QRS which 
marched through the beginning of the "VT" and the O2 pleth below 
which continued though the "VT" at a steady HR of 70, the strip 
was thought to artifactual and not VT. His cardiac enzymes were 
negative x2. 

# Anemia: 
Patient with Hgb 10.2, MCV 101, baseline unknown. Per report 
from ___, patient with dark brown guaiac positive emesis, 
likely related to irritation due to vomiting. The patient had no 
signs of active bleeding at ___. Normal iron, ferritin, 
borderline low tibc and normal B12. Haptoglobin normal. 

#Strep Throat
Was on Clindamycin (started on ___ to treat strep throat 
___ with rapid strep at OSH), however this medication caused 
side effects of nausea/vomiting. Switched to Azithromycin prior 
to discharge which he should continue through ___. 

Transitional issues: 
- Hemoglobin 10.1, MCV 101, baseline unknown. Per report from 
___, patient with dark brown guaiac positive emesis. 
Thought to be related to irritation in the setting of repeated 
emesis. Iron, TIBC, Ferritin, haptoglobin normal. Patient 
prescribed Omeprazole 20 mg for GERD and possible gastritis. 
Consider repeat CBC after discharge. 
- Continue azithromycin through ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D 3000 UNIT PO DAILY 
2. Finasteride 5 mg PO DAILY 
3. Lisinopril 2.5 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Tamsulosin 0.4 mg PO QHS 
6. amLODIPine 5 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Azithromycin 250 mg PO Q24H 
RX *azithromycin 250 mg 1 tablet(s) by mouth every day Disp #*4 
Tablet Refills:*0 
2.  Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times per day 
Disp #*30 Capsule Refills:*0 
3.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth every day Disp #*30 
Capsule Refills:*0 
4.  amLODIPine 5 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Finasteride 5 mg PO DAILY  
7.  Lisinopril 2.5 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Tamsulosin 0.4 mg PO QHS  
10.  Vitamin D 3000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: strep throat, nausea and vomiting 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking care of you at the ___ 
___. You were admitted because you had 
Nausea and chest discomfort. We evaluated your heart rhythm and 
found that it was normal. You also had no evidence of cardiac 
muscle injury in your blood. 

It is very important to take all of your heart healthy 
medications, including lisinopril and amlodipine for your blood 
pressure. Continue to eat healthy and exercise.

We have changed the antibiotic used to treat your strep throat 
to azithromycin. Please take the full course  (5 days).  

 We wish you the best with your health,  
 Your ___ Cardiac Care Team  
  

 
Followup Instructions:
___